US03947434
A. Preparation of 2-(N-methylpiperazino)-5-nitropyridine
A 500 ml. 3-neck, r.b. flask fitted with y-tube and condenser and thermometer, stirrer and addition funnel was charged with a mixture of 2-chloro-5-nitropyridine (15.8 g. 0.1 mole) in ethanol (300 ml.). To this was added N-methylpiperazine (20 g. 0.2 mole) dropwise while stirring. After the addition (ca. 5 min.), the mixture was heated at reflux for 3 hr. while stirring continued. The solution was chilled to 5°C and the crystals were collected by filtration and dried at 60°C to yield 12 g. yellow crystals, m.p. 94°-96°C.

reactant | 2-chloro-5-nitropyridine | 0.1 mole, 15.8 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | N-methylpiperazine | 0.2 mole, 20 g | CN1CCNCC1 | C5H12N2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(N-methylpiperazino)-5-nitropyridine | CN1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O2
